US04416884
5-Amino-6-chloroquinaldine (4 g) was dissolved in 40 ml of concentrated hydrochloric acid and the resulting solution was cooled with ice. Then, a solution of 2.1 g of sodium nitrite dissolved in 5 ml of water was added thereto dropwise while ice-cooling. After continuing the reaction at the same temperature as above, the reaction mixture was added to a solution of 7 g of cuprous chloride dissolved in 15 ml of concentrated hydrochloric acid and the resulting mixture was allowed to react on a water bath at a temperature of 50° C. for 1 hour, during which time vigorous formation of nitrogen gas was observed. Subsequently, the reaction mixture was cooled, rendered alkaline with 30% sodium hydroxide, and filtered and extracted using 300 ml of chloroform and Celite (diatomaceous earth). After drying over anhydrous sodium sulfate the chloroform fraction was concentrated and recrystallized from a mixture of isopropanol and water to give 3.5 g of 5,6-dichloroquinaldine as white needles having a melting point of 84° to 85° C.

reactant | 5-Amino-6-chloroquinaldine | 4 g | NC1=C2C=CC(=NC2=CC=C1Cl)C | C10H9ClN2
reactant | sodium nitrite | 2.1 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 40 ml | Cl | ClH
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 5,6-dichloroquinaldine | 3.5 g | ClC1=C2C=CC(=NC2=CC=C1Cl)C | C10H7Cl2N
